US04362666
To the solution of 780 mg of 2-carbomethoxymethyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine in 20 ml of tetrahydrofuran, 150 mg of lithium aluminum hydride are added and the mixture is stirred for 2 days at room temperature. It is combined with 0.15 ml of water, 0.15 ml of 15% aqueous sodium hydroxide and 0.15 ml of water in this order filtered and the filtrate evaporated, to yield the 2-(2-hydroxyethyl)-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine, which is converted into its mono-fumarate melting at 187°-189° with decomposition.

reactant | 2-carbomethoxymethyl-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]-benzodiazepine | 780 mg | C(=O)(OC)CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C18H21N3O2
reactant | lithium aluminum hydride | 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.15 ml | O | H2O
reactant | sodium hydroxide | 0.15 ml | [OH-].[Na+]
reactant | water | 0.15 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(2-hydroxyethyl)-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | OCCN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C17H21N3O
